US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide (3.9 g) and 2-bromoethylbenzene (2.9 g) were dissolved in DMF, and potassium carbonate was added. The mixture was stirred under heating at 70° C. for 5 hours, and after the completion of the reaction, the solvent was evaporated under reduced pressure. Ethyl acetate was added to the obtained residue and the mixture was washed with saturated brine. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (chloroform:methanol=30:1). The obtained eluate was concentrated and IPE was added. The precipitated crystals were collected by filtration to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide (4.3 g), melting point 119-121° C.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | 3.9 g | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 2-bromoethylbenzene | 2.9 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | 4.3 g | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C23H32N2O
